US07151109B2
Preparatin of 2-ethyl-N-(3-fluoropropyl)-N-methylpyrazolo[1,5-a]pyridin-3-amine
A solution of 2-ethyl-N-(3-fluoropropyl)pyrazolo[1,5-a]pyridin-3-amine (0.301 g, 1.36 mmol) in DMF (4 mL) was treated with K2CO3 (0.200 g, 1.45 mmol) and methyl iodide (0.06 mL, 0.96 mmol). The reaction was stirred at room temperature for 22 hours then concentrated in vacuo. The residue was partitioned between CH2Cl2 and water. The aqueous layer was extracted with CH2Cl2 and the combined organics was dried over MgSO4, concentrated in vacuo to give 0.190 g (84%) of a brown oil as the title compound: 1H NMR (400 MHz, DMSO-d6) δ 8.46 (d, J=6.9 Hz, 1H), 7.57 (d, J=8.9 Hz, 1H), 7.08–7.05 (m, 1H), 6.73–6.70 (m, 1H), 4.56 (dt, J=47.5, 5.9 Hz, 2H), 3.09 (t, J=7.0 Hz, 2H), 2.78 (s, 3H), 2.71 (q, J=7.6 Hz, 2H), 1.77–1.64 (m, 2H), 1.24 (t, J=7.6, Hz 3H); 13C NMR (100 MHz, DMSO-d6) δ 152.3, 135.2, 128.7, 122.1, 120.9, 116.4, 110.6, 82.6 (d, J=161.4 Hz), 52.4 (d, J=5.2 Hz), 43.6, 29.0 (d, J=19.3 Hz), 19.0, 13.5; 19F NMR (376 MHz, DMSO-d6) −219.0 (m); HRMS (FAB) calcd for C13H18FN3+H 236.1563. found 236.1573.

reactant | 2-ethyl-N-(3-fluoropropyl)pyrazolo[1,5-a]pyridin-3-amine | 1.36 mmol, 0.301 g | C(C)C1=NN2C(C=CC=C2)=C1NCCCF | C12H16FN3
reactant | K2CO3 | 1.45 mmol, 0.200 g | C(=O)([O-])[O-].[K+].[K+]
reactant | methyl iodide | 0.96 mmol, 0.06 mL | CI | CH3I
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
product | 2-ethyl-N-(3-fluoropropyl)-N-methylpyrazolo[1,5-a]pyridin-3-amine | 0.190 g, 84% | C(C)C1=NN2C(C=CC=C2)=C1N(C)CCCF | C13H18FN3
